US06730687B1
5-[(4-Methoxyphenyl)methyl]thiazolidine-2,4-dione
5-[(4-Methoxyphenyl)methylidene]thiazolidine-2,4-dione (6.00 g, 25.5 mmol), 10% palladium on carbon (6.00 g) and a mixed solvent of tetrahydrofuran and ethanol (2:1 v/v, 300 mL) were mixed, and hydrogenation was performed at room temperature and at an initial pressure of 294 kPa. After completion of the reaction, catalyst was filtered and the filtrate was concentrated. The residue was purified by silica gel chromatography (eluate n-hexane: ethyl acetate=2:1 v/v) to obtain 5.84 g (97%) of the title compound as colorless powder.

reactant | 5-[(4-Methoxyphenyl)methylidene]thiazolidine-2,4-dione | 25.5 mmol, 6.00 g | COC1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C11H9NO3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 6.00 g | [Pd] | Pd
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5-[(4-Methoxyphenyl)methyl]thiazolidine-2,4-dione | 5.84 g, 97% | COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C11H11NO3S
